### PR TITLE
[Merged by Bors] - chore(Combinatorics/SimpleGraph): golf `Coloring.even_length_iff_congr`

### PR DESCRIPTION
**Pull request by MrBrain295**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean [hunk 1]
```diff
@@ -60,14 +60,7 @@ theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
...
     Even p.length ↔ (c u ↔ c v) := by
-  induction p with
-  | nil => simp
-  | @cons u v w h p ih =>
-    simp only [Walk.length_cons, Nat.even_add_one]
-    have : ¬ c u = true ↔ c v = true := by
-      rw [← not_iff, ← Bool.eq_iff_iff]
-      exact c.valid h
-    tauto
+  induction p <;> grind [c.valid, length_cons, Nat.even_add_one]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Coloring/Constructions.lean]:
```suggestion
  induction p <;> grind [c.valid, Walk.length_cons]
```

**Review by SnirBroshi — COMMENTED** [review]
Ooh it even seems to make the proof 60% faster, nice golf!

**Comment by MrBrain295** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/c492417798e2bd8fec06e83bd641b5510a73fcf3?reference=42a3845c6d7ec6866eefa4cc327a306a0c4a7d3c) for c492417798e2bd8fec06e83bd641b5510a73fcf3 against 42a3845c6d7ec6866eefa4cc327a306a0c4a7d3c are in. No significant results found. @MrBrain295

- ✅ `build//instructions`: **-335.5M** (**-0.00%**)

**Small changes (1✅)**

- ✅ `build/module/Mathlib.Combinatorics.SimpleGraph.Coloring.Constructions//instructions`: **-1.2G** (**-10.73%**) (reduced significance based on *//lines)

**Comment by MrBrain295** [comment]
@SnirBroshi is this good to merge?

**Comment by SnirBroshi** [comment]
I think so, but I don't hold such power

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
